US04052414
Sodium borohydride (1 gram) is slowly added to 50 milliliters of methanol and 0.3 gram of cis-zearalenone while cooling the resultant reaction mixture. The mixture is then heated for 2 hours on a steam bath to evaporate the methanol. The residue is neutralized with HCl and extracted with two 40 milliliter portions of chloroform. The chloroform is then evaporated and the residue is purified by the column chromatography procedure of Example III, above, to yield about 0.28 gram of mixed diamers of cis-zearalenol.

reactant | Sodium borohydride | 1 gram | [BH4-].[Na+]
reactant | cis-zearalenone | 0.3 gram | C[C@H]1CCCC(=O)CCC/C=C\C2=CC(=CC(=C2C(=O)O1)O)O | C18H22O5
solvent | methanol | 50 milliliters | CO | CH4O
product | cis-zearalenol | C[C@H]1CCC[C@@H](CCC/C=C/C2=CC(=CC(=C2C(=O)O1)O)O)O | C18H24O5
